US05153335
4-Chlorophthalic anhydride (10 g, 55 mmol), potassium benzoate (1.0 g, 6.2 mmol), and N-methylpyrrolidinone (25 g) were heated to about 175.C. Potassium carbonate (3.87 g, 28 mmol) was added and the suspension was heated to about 175.C. After 2 hours, GC analysis indicated a greater than 97% conversion to 4,4'-oxydiphthalic anhydride. The solvent was removed under reduced pressure and the residue treated with an aqueous 25% sodium hydroxide solution. The solution was acidified with concentrated HCl. The solid was collected and dried to give 4,4'-oxydiphthalic acid (4.85 g) mixed with some sodium chloride. The tetra acid was cyclized and recrystallized from hot acetic anhydride (2.4 mL) and filtered to remove salts to give 4,4'-oxydiphthalic anhydride, 4.2 g.

reactant | 4-Chlorophthalic anhydride | 55 mmol, 10 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | potassium benzoate | 6.2 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)[O-].[K+]
reactant | Potassium carbonate | 28 mmol, 3.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,4'-oxydiphthalic anhydride | C1=CC2=C(C=C1OC3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O7
solvent | N-methylpyrrolidinone | 25 g | CN1C(CCC1)=O | C5H9NO
product | 4,4'-oxydiphthalic acid | 4.85 g | O(C=1C=C(C(C(=O)O)=CC1)C(=O)O)C=1C=C(C(C(=O)O)=CC1)C(=O)O | C16H10O9
